US09126969B2
Preparation of 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol
A solution of 200 mg of 4-fluoro-5-(3-piperidin-1-ylpropoxy)benzene-1,2-diamine and 181 mg of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde in 15 mL of methanol is stirred at ambient temperature over night. The reaction medium is concentrated to dryness under vacuum in a rotary evaporator. The reaction crude is purified by flash chromatography on a 20 g silica cartridge, eluent: 100/0 to 80/20 dichloromethane/methanol. 280 mg of 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazoleare isolated in the form of a red lake. Analytical LC/MS: Tr=2.51 min, [M+H]+=472.97 DAD=36%.

reactant | 4-fluoro-5-(3-piperidin-1-ylpropoxy)benzene-1,2-diamine | 200 mg | FC=1C=C(C(=CC1OCCCN1CCCCC1)N)N | C14H22FN3O
reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 181 mg | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
solvent | methanol | 15 mL | CO | CH4O
product | 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol | FC1=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C=C1OCCCN1CCCCC1 | C23H29FN6O4
